US05247085
a) 6-[[3-Acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]amino]-4-chloro-2,5-diformamidopyrimidine
A mixture of 4,6-dichloro-2,5-diformamidopyrimidine (0.475 mg, 2 mmol), diethyl [2-acetoxy-1-(aminooxymethyl)ethoxy)methylphosphonate (0.60 mg, 2 mmol) and triethylamine (0.54 ml, 4 mmol) in dry dioxan (20 ml) was heated at 120° C. for 5 hours. The reaction mixture was cooled to ambient temperature, filtered, and the filtrate evaporated to leave a yellow oil. The oil was chromatographed on silica gel (eluant dichloromethane:methanol 97:3) to give the title compound as a pale yellow solid (0.81 g, 80%). 1H NMR: δH [(CD3)2SO] 1.23 (2×3H, 2×t, J=7 Hz, (OCH2CH3)2), 2.03 (3H,s, COCH3), 3.80-4.35 (11H,m, CH2CHCH2 +(OCH2CH3)2 +OCH2P), 8.16 (1H,br.s, sharpens to s. on D2O, CHO), 9.26 (1H,d,J=9.9 Hz. collapses to s. on D2O. CHO), 9.45 (1H,br.s, D2O exchangeable, NH), 10.8-10.95 (2H,m, D2O exchangeable 2×NH). Found: C,37.36; H,5.37; N,13.43%; C16H25N5O9PCl.H2O requires: C,37.18; H,5.27; N,13.55%. m/z: observed 497.1082; C16H25N5O9PCl(M+) requires 497.1078.

reactant | 4,6-dichloro-2,5-diformamidopyrimidine | 2 mmol, 0.475 mg | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | diethyl [2-acetoxy-1-(aminooxymethyl)ethoxy)methylphosphonate | 2 mmol, 0.60 mg | C(C)(=O)OCC(OCP(OCC)(OCC)=O)CON | C10H22NO7P
reactant | triethylamine | 4 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 6-[[3-Acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]amino]-4-chloro-2,5-diformamidopyrimidine | 0.81 g, 80% | C(C)(=O)OCC(CONC1=C(C(=NC(=N1)NC=O)Cl)NC=O)OCP(=O)(OCC)OCC | C16H25ClN5O9P
